US06472393B1
(R)-{2-[3-(4-cyanophenyl)-2-oxo-1-(propane-1-sulfonyl)-imidazolidin-4-yl]-4,5-diethoxyphenylsulfamoyl}-acetic acid ethyl ester (0.160 g) was diluted with ethanol (5 mL) followed by lithium hydroxide (1 mL of a 10% aqueous solution, 10 Equiv.) and the solution was stirred for forty eight hours. The solution was purified by direct flash chromatography on silica gel (20% methanol/80% dichloromethane) to yield the product. This product was diluted with ethanol (1 mL) and hydroxylamine (0.035 g, 10 Equiv.) and Hunigs base (0.088 mL, 10 Equiv.) was added and the solution was heated to 60° C. for six hours. The reaction mixture was cooled to room temperature and stirred for twelve hours. Ethanol (3 mL) and acetic acid (0.5 mL), and Raney nickel (0.025 g) was added and the solution was hydrogenated for one hour. The reaction mixture was filtered through a pad of celite and the solvent was removed under reduced pressure. The product was purified by reverse-phase preparative chromatography to yield {2-[1-(4-carbamimidoylphenylamino)-2-(propane-1-sulfonylamino)-ethyl]-4,5-diethoxyphenylsulfamoyl} acetic acid (52 mg). [α]Na −42.1 (c 1.01, methanol) MS (M+H)=587.

reactant | (R)-{2-[3-(4-cyanophenyl)-2-oxo-1-(propane-1-sulfonyl)-imidazolidin-4-yl]-4,5-diethoxyphenylsulfamoyl}-acetic acid ethyl ester | 0.160 g | C(C)OC(CS(NC1=C(C=C(C(=C1)OCC)OCC)[C@H]1N(C(N(C1)S(=O)(=O)CCC)=O)C1=CC=C(C=C1)C#N)(=O)=O)=O | C27H34N4O9S2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydroxylamine | 0.035 g | NO | H3NO
reactant | Hunigs base | 0.088 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Raney nickel | 0.025 g | [Ni] | Ni
solvent | Ethanol | 3 mL | C(C)O | C2H6O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | {2-[1-(4-carbamimidoylphenylamino)-2-(propane-1-sulfonylamino)-ethyl]-4,5-diethoxyphenylsulfamoyl} acetic acid | 52 mg | C(N)(=N)C1=CC=C(C=C1)NC(CNS(=O)(=O)CCC)C1=C(C=C(C(=C1)OCC)OCC)NS(=O)(=O)CC(=O)O | C24H35N5O8S2
